US05496843
5) 6-Chloro-1-ethoxalyl-8-nitrotetralin
To a mixture of potassium t-butoxide (79.49 g, 0.708 mol) and diethyl oxalate (105.8 mL, 0.779 mol) in ethanol (140 mL) was added 7-chloro-5-nitrotetralin (14 g, 0.071 mol) at room temperature. The mixture was stirred for 2 h, poured into 10% aqueous KHSO4, and extracted with ethyl acetate (400 mL×2). The combined organic layers were washed successively with water and brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 15:1~6:1 hexane/-ethyl acetate to give 8.39 g of the title compound: 1H NMR (CDCl3) δ7.91 (d, 1H, J=2.1 Hz), 7.45 (d, 1H, J=6.3, 4.0 Hz), 4.41 (m, 2H), 2.82~3.09 (m, 2H), 2.02 (m, 2H), 1.85 (m, 2H), 1.42 (t, 3H, J=7.3 Hz).

reactant | potassium t-butoxide | 0.708 mol, 79.49 g | CC(C)([O-])C.[K+]
reactant | diethyl oxalate | 0.779 mol, 105.8 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 7-chloro-5-nitrotetralin | 0.071 mol, 14 g | ClC1=CC(=C2CCCCC2=C1)[N+](=O)[O-] | C10H10ClNO2
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | ethanol | 140 mL | C(C)O | C2H6O
product | 6-Chloro-1-ethoxalyl-8-nitrotetralin | 8.39 g | ClC=1C=C2CCCC(C2=C(C1)[N+](=O)[O-])C(=O)C(=O)OCC | C14H14ClNO5
